* Copyright © Linear Technology Corp. 2004.  All rights reserved.
*
.subckt LT3024 1 2 3 4 5 6 7 8 9 10 11 12
Q1 N006 N004 9 0 PN
Q2 N004 N008 4 0 NA1
Q3 N008 N003 N010 0 NP temp=27
C1 N008 N003 27p Rser=225K
Q4 N003 N003 1 0 NP 10 temp=27
R2 1 4 12K
R3 N010 4 10K
C2 2 N003 15p
Q5 2 12 N009 0 FB temp=27
R6 N009 1 106.8K
R5 11 4 10Meg
I1 11 4 1µ load
A1 11 4 4 4 4 4 N002 4 SCHMITT Vt=.75 Vh=1m trise=1m
G2 9 N003 N002 4 1.2µ
G1 9 N008 N002 4 1.2µ
R1 9 N004 600K
R8 N006 2 .1
A2 N005 4 N008 N008 N008 N008 4 N008 VARISTOR
D3 4 N005 F
G3 4 N005 2 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 9 2 X
C5 2 4 10p
C7 9 4 10p
C8 1 4 1p
G5 N005 4 N002 4 table(0 1.85m 1 0)
C4 9 N003 100p Rser=45G Rpar=6G
Q6 N017 N015 9 0 PN
Q8 N015 N019 4 0 NA
Q9 N019 N014 N021 0 NP temp=27
C6 N019 N014 12p Rser=350K
Q10 N014 N014 6 0 NP 10 temp=27
R4 6 4 12K
R11 N021 4 10K
C9 5 N014 15p
Q11 5 7 N020 0 FB temp=27
R12 N020 6 106.8K
R13 8 4 20Meg
I2 8 4 1µ load
A3 8 4 4 4 4 4 N012 4 SCHMITT Vt=.8 Vh=1m trise=1m
G6 9 N014 N012 4 1.2µ
G7 9 N019 N012 4 1.2µ
R14 9 N015 600K
R15 N017 5 1.17
A4 N016 4 N019 N019 N019 N019 4 N019 VARISTOR
D2 4 N016 F
G8 4 N016 5 N017 10m
Q12 N014 N015 N017 0 P 1m
D4 9 5 X
C11 5 4 10p
C13 6 4 1p
G9 4 N016 9 4 table(1.3 1m 2.4 3m 10 4m)
G10 N016 4 N012 4 table(0 3m 1 0)
C14 9 N014 100p Rser=.67G Rpar=6G
G4 4 N005 9 4 table(1.3 1m 2.4 1.85m 10 2.3m)
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model NA1 NPN(BF=650K Cje=.5p Cjc=.5p Re=10)
.ends LT3024
